US09023846B2
[Bis(trifluoroacetoxy)iodo]benzene (430 mg, 1.00 mmol) was dissolved in anhydrous MeOH (4 mL), the resulting solution was stirred at room temperature for 3 min. BF3.OEt2 (0.123 mL, 1.00 mmol) was then added via syringe. Ethyl trimethylacetopyruvate (200 mg, 1.00 mmol) was added dropwise via syringe and the resulting mixture was stirred at room temperature for 12 h. The solvent was removed under reduced pressure and the resulting residue was dissolved in dry EtOH (2 mL). CH3NHNH2 (52.6 μL, 1.00 mmol) was added via syringe and the resulting mixture was stirred at 80° C. for 8 h. The solvent was removed under reduced pressure and the resulting residue was chromatographed on a 24-g SiO2 pre-packed column eluting with 0:1-3:7 EtOAc/hexanes to yield 5-tert-butyl-4-methoxy-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester. 1H-NMR (400 MHz, CDCl3) δ: 4.39 (q, J=7.1 Hz, 2H), 4.03 (s, 3H), 3.83 (s, 3H), 1.42 (t, J=7.2 Hz, 3H), 1.34 (s, 9H).

reactant | [Bis(trifluoroacetoxy)iodo]benzene | 1.00 mmol, 430 mg | FC(C(=O)OI(OC(C(F)(F)F)=O)C1=CC=CC=C1)(F)F | C10H5F6IO4
reactant | BF3.OEt2 | 1.00 mmol, 0.123 mL | B(F)(F)F.CCOCC
reactant | Ethyl trimethylacetopyruvate | 1.00 mmol, 200 mg | CCOC(=O)C(=O)CC(=O)C(C)(C)C | C10H16O4
reactant | CH3NHNH2 | 1.00 mmol, 52.6 μL | CNN | CH6N2
solvent | MeOH | 4 mL | CO | CH4O
product | 5-tert-butyl-4-methoxy-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(N=C(C1OC)C(C)(C)C)C | C12H20N2O3
